US08563575B2
[2-(Chloromethoxy)ethyl](trimethyl)silane (1.673 mL) was added to a solution of 3-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.0 g) and sodium hydride (0.504 g) (60% in mineral oil) in DMF (5.0 ml) at 0° C. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 1 h. After the reaction, the reaction mixture was diluted with MeOH and concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give 3-[4-(benzyloxy)phenyl]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one (2.75 g) as a white solid.

reactant | [2-(Chloromethoxy)ethyl](trimethyl)silane | 1.673 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | 3-[4-(benzyloxy)phenyl]-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 2.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(NC=2C1=NC=CC2)=O | C19H15N3O2
reactant | sodium hydride | 0.504 g | [H-].[Na+]
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-[4-(benzyloxy)phenyl]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one | 2.75 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=CC2)COCC[Si](C)(C)C)=O | C25H29N3O3Si
